US08802670B2
To a solution of 4-methanesulfonyl-piperazine-1,3-dicarboxylic acid 1-tert-butyl ester (8.4 g, crude) in DMF (50 mL) was added K2CO3 (7.5 g) and iodomethane (8.5 mL) The mixture was stirred overnight at R.T. An aqueous work-up followed by purification on silica gave 4-methanesulfonyl-piperazine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester (3.267 g). A solution of 4-methanesulfonyl-piperazine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester (3.2 g) in dry THF (20 mL) was added via cannular to a mixture of lithium aluminium hydride (0.75 g) in THF (30 mL) at 0° C. and under N2 atmosphere. The resultant mixture was then warmed to R.T. and stirred for 2.5 h. The reaction was carefully quenched with aqueous ammonium chloride (5 mL) then filtered over Celite. An aqueous work-up followed by purification on silica gave 3-hydroxymethyl-4-methanesulfonyl-piperazine-1-carboxylic acid tert-butyl ester (1.13 g).

reactant | 4-methanesulfonyl-piperazine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester | 3.2 g | COC(=O)C1CN(CCN1S(=O)(=O)C)C(=O)OC(C)(C)C | C12H22N2O6S
reactant | lithium aluminium hydride | 0.75 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 3-hydroxymethyl-4-methanesulfonyl-piperazine-1-carboxylic acid tert-butyl ester | 1.13 g | C(C)(C)(C)OC(=O)N1CC(N(CC1)S(=O)(=O)C)CO | C11H22N2O5S
